US09382188B2
B) 2-(5-(tert-butyl)-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol
To a solution of 2-(5-(tert-butyl)-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl pivalate (191 mg) in methanol (2.0 mL) and THF (2.0 mL) was added 1N aqueous sodium hydroxide solution (1.3 mL), and the mixture was stirred at room temperature for 40 min. Water and hydrochloric acid were added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (113 mg) as a white amorphous solid.

reactant | 2-(5-(tert-butyl)-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl pivalate | 191 mg | C(C(C)(C)C)(=O)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)C=1SC(=NN1)C(C)(C)C | C24H27FN2O3S
reactant | sodium hydroxide | 1N, 1.3 mL | [OH-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2.0 mL | CO | CH4O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 2-(5-(tert-butyl)-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol | 113 mg | C(C)(C)(C)C1=NN=C(S1)C1=C(C=CC(=C1)O)C1=C(C=CC(=C1)OC)F | C19H19FN2O2S
